US07566788B2
N-{2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide (101 mg) was dissolved in iso-propylacetate (1.5 ml) at 42° C. and ethane sulphonic acid (20 μl, 95%) was added. Crystallisation started immediately. The slurry was left for three days before it was filtered off and washed with iso-propylacetate (3×200 μl). The product was dried at 40° C. under vacuum to yield 61 mg crystalline N-{2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide esylate salt.

reactant | N-{2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide | 101 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NS(=O)(=O)CC | C20H29F2N3O2S
reactant | ethane sulphonic acid | 20 μl | C(C)S(=O)(=O)O | C2H6O3S
solvent | iso-propylacetate | 1.5 ml | C(C)(C)OC(C)=O | C5H10O2
product | N-{2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide esylate salt | 61 mg | S(=O)(=O)(O)CC.C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NS(=O)(=O)CC | InChI=1S/C20H29F2N3O2S.C2H6O3S/c1-5-28(26,27)24-15-6-7-17-16(12-15)23-18(19(2,3)4)25(17)13-14-8-10-20(21,22)11-9-14;1-2-6(3,4)5/h6-7,12,14,24H,5,8-11,13H2,1-4H3;2H2,1H3,(H,3,4,5)
